US08383833B2
(1R)-1-Methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl 2-chloro-2-(2-chlorophenyl)acetate
To thionyl chloride (7.7 g, 64.7 mmol), 2-chlorophenylacetic acid (10 g, 58.6 mmol) was added. The mixture was stirred at 50° C. for 3 hours. After stirring, sulfuryl chloride (12.7 g, 93.8 mmol) was added thereto at the same temperature for reaction overnight. After the reaction, toluene (45 mL) was added and (2R)-1-oxo-1-pyrrolidinylpropane-2-ol (9.2 g, 64.5 mmol) was added thereto at the same temperature. Subsequently, triethylamine (7.7 g, 93.8 mmol) was added to carry out reaction for 2 hours. After the reaction, water was added thereto and the water layer was disposed of. The obtained organic layer was washed with water, and the water layer was disposed of. The organic layer was concentrated under reduced pressure to obtain 19 g of the concentrate of the target compound.

reactant | thionyl chloride | 64.7 mmol, 7.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chlorophenylacetic acid | 58.6 mmol, 10 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | sulfuryl chloride | 93.8 mmol, 12.7 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | (2R)-1-oxo-1-pyrrolidinylpropane-2-ol | 64.5 mmol, 9.2 g | O=C([C@@H](C)O)N1CCCC1 | C7H13NO2
reactant | triethylamine | 93.8 mmol, 7.7 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | (1R)-1-Methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl 2-chloro-2-(2-chlorophenyl)acetate | ClC(C(=O)O[C@@H](C(N1CCCC1)=O)C)C1=C(C=CC=C1)Cl | C15H17Cl2NO3
